US07462726B2
(1) Preparation of 3,5-Dibromo-2,2′-Bithiophene
Tetrakis(triphenylphosphine)palladium (3 mmol) and 100 mL of an aqueous 2N sodium carbonate solution were added to a solution of 2-thiophene-boric acid (5.0 mmol) and 2,3,5-tribromothiophene (100 mmol) in a mixture of 200 mL of toluene and 100 mL of ethanol in a nitrogen atmosphere. The resulting mixture was refluxed for 24 hours. The reaction mixture was combined with water, and extracted with toluene. The extract solution was washed with water, and dried over magnesium sulfate. The solvent was evaporated to obtain a crude product. The crude product was purified by column chromatography and by recrystallization from hexane to obtain the intended product (22.1 mmol) in a 22% yield.

reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,3,5-tribromothiophene | 100 mmol | BrC=1SC(=CC1Br)Br | C4HBr3S
reactant | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium | 3 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,5-Dibromo-2,2′-Bithiophene | 22.1 mmol, 22% yield | BrC1=C(SC(=C1)Br)C=1SC=CC1 | C8H4Br2S2
